* Library of digital input and output devices for Digital Files option

*  Copyright Cadence Design Systems, Inc. 2002 All Rights Reserved.
*
*
* $Revision:   1.7  $
* $Author:   HIRASUNA  $
* $Date:   11 May 2000 13:26:32  $
*
*
*** digital input devices *****************************************************

* The parameters in this library were derived from:
*
*   The TTL Data Book, Texas Instruments, 1985
*     vol. 2, pp 1-21 to 1-26
*   Supplement to TTL Data Book, Texas Instruments, 1984
*     vol. 3, pp 3-17 to 3-19
*   High-speed CMOS Logic Data Book, Texas Instruments, 1984
*     pp 2-4 to 2-16
*   CMOS Integrated Circuits Databook, RCA Solid State, 1983
*     pp 44-55

* Example use:  N3 out 0 VCC DIN74LS
*    VCC must be connected to a +5 volt supply

* Notes:
* 1) Unlike the other libraries, this one is not ready to use as it is.
*    Each .MODEL statement has 3 parameters missing: the name of the
*    file to read for digital input, the format of that file, and the
*    file's time step.  You must supply these parameters before using
*    these models.  Also, you may need to change the characters used
*    to designate the low, high, unknown, and high impedance states;
*    these models use "0", "1", "X", and "Z".  We have set the "X"
*    state to be halfway between the "0" and "1" states; you can
*    change this if it is not appropriate for your application.
*    Because you will want to make some or all of these changes,
*    we recommend making a working copy of this file instead of using
*    the original.
* 2) Each logic family has one or more digital input devices in this
*    library: standard drive, buffer drive, and open-collector drive.
*    These devices are the output stage of the digital component, but
*    are called "digital input devices" because they provide input to
*    the analog circuitry.  The 54 series of families have the same
*    parameters as the 74 series.  The 54/74HCT family has the same
*    parameters as the 54/74HC family.
* 3) The values in these models only work properly if the low-level
*    node (the 2nd node) in the "N" device is connected to ground and
*    the high-level node (the 3rd node) is connected to VCC.  For the
*    bipolar families VCC must be +5 volts (this includes open-collector
*    outputs); for the 74HC CMOS family VCC must be between +4.5 and +6
*    volts; for the 4000 CMOS family VCC must be between +3 and +18 volts.
*    The first node is the output of the "N" device.
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74LS family

*   standard drive
*
.model DIN74LS dinput(
+	s0name = "0", s0tsw = 8ns, s0rlo = 30.6 s0rhi = 1.5k,
+	s1name = "1", s1tsw = 8ns, s1rlo = 203  s1rhi = 87.1,
+	s2name = "X", s2tsw = 4ns, s2rlo = 78.8 s2rhi = 361)
*$
*   buffer drive
*
.model DIN74LSB dinput(
+	s0name = "0", s0tsw = 8ns, s0rlo = 7.96 s0rhi = 226,
+	s1name = "1", s1tsw = 8ns, s1rlo = 203  s1rhi = 87.1,
+	s2name = "X", s2tsw = 4ns, s2rlo = 40.2 s2rhi = 140,
+	s3name = "Z", s3tsw = 8ns, s3rlo = 200k s3rhi = 200k)
*$
*   open-collector output
*
.model DIN74LSOC dinput(
+	s0name = "0", s0tsw = 8ns, s0rlo = 30.6 s0rhi = 1.5k,
+	s1name = "1", s1tsw = 8ns, s1rlo = 200k s1rhi = 200k,
+	s2name = "X", s2tsw = 4ns, s2rlo = 2470 s2rhi = 17.3k)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74 family (standard TTL)

*   standard drive
*
.model DIN74 dinput(
+	s0name = "0", s0tsw = 5ns, s0rlo = 8.54 s0rhi = 38.9,
+	s1name = "1", s1tsw = 8ns, s1rlo = 486  s1rhi = 209,
+	s2name = "X", s2tsw = 4ns, s2rlo = 64.4 s2rhi = 90.1,
+	s3name = "Z", s3tsw = 8ns, s3rlo = 100k s3rhi = 100k)
*$
*   open-collector output
*
.model DIN74OC dinput(
+	s0name = "0", s0tsw = 5ns, s0rlo = 8.54 s0rhi = 38.9,
+	s1name = "1", s1tsw = 8ns, s1rlo = 100k s1rhi = 100k,
+	s2name = "X", s2tsw = 4ns, s2rlo = 924  s2rhi = 1970)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74S family

*   standard drive
*
.model DIN74S dinput(
+	s0name = "0", s0tsw = 2.5ns, s0rlo = 10.9 s0rhi = 292,
+	s1name = "1", s1tsw = 2.5ns, s1rlo = 174  s1rhi = 74.6,
+	s2name = "X", s2tsw = 1.3ns, s2rlo = 43.5 s2rhi = 148,
+	s3name = "Z", s3tsw = 5ns,   s3rlo = 40k  s3rhi = 40k)
*$
*   open-collector output
*
.model DIN74SOC dinput(
+	s0name = "0", s0tsw = 2.5ns, s0rlo = 10.9 s0rhi = 292,
+	s1name = "1", s1tsw = 2.5ns, s1rlo = 40k  s1rhi = 40k,
+	s2name = "X", s2tsw = 1.3ns, s2rlo = 660  s2rhi = 3420)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74ALS family

*   standard drive
*
.model DIN74ALS dinput(
+	s0name = "0", s0tsw = 1ns, s0rlo = 30.6 s0rhi = 1.5k,
+	s1name = "1", s1tsw = 3.5ns,s1rlo= 174  s1rhi = 74.6,
+	s2name = "X", s2tsw = 2ns, s2rlo = 73.0 s2rhi = 335)
*$
*   buffer drive
*
.model DIN74ALSB dinput(
+	s0name = "0", s0tsw = 3ns, s0rlo = 10.8 s0rhi = 328,
+	s1name = "1", s1tsw = 3.5ns,s1rlo= 62.5 s1rhi = 146,
+	s2name = "X", s2tsw = 3ns, s2rlo = 26.0 s2rhi = 219,
+	s3name = "Z", s3tsw = 4ns, s3rlo = 100k s3rhi = 100k)
*$
*   open-collector output
*
.model DIN74ALSOC dinput(
+	s0name = "0", s0tsw = 1ns, s0rlo = 30.6 s0rhi = 1.5k,
+	s1name = "1", s1tsw = 3.5ns,s1rlo= 100k s1rhi = 100k,
+	s2name = "X", s2tsw = 2ns, s2rlo = 1750 s2rhi = 12.2k)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74AS family

*   standard drive
*
.model DIN74AS dinput(
+	s0name = "0", s0tsw = 1ns, s0rlo = 10.9 s0rhi = 292,
+	s1name = "1", s1tsw = 1.5ns,s1rlo= 97.3 s1rhi = 41.7,
+	s2name = "X", s2tsw = 1ns, s2rlo = 32.6 s2rhi = 110)
*$
*   buffer drive
*
.model DIN74ASB dinput(
+	s0name = "0", s0tsw = 1ns, s0rlo = 3.28 s0rhi = 93.2,
+	s1name = "1", s1tsw = 1.5ns,s1rlo= 15.1 s1rhi = 35.3,
+	s2name = "X", s2tsw = 1ns, s2rlo = 7.04 s2rhi = 57.4,
+	s3name = "Z", s3tsw = 2ns, s3rlo = 40k  s3rhi = 40k)
*$
*   open collector output
*
.model DIN74ASOC dinput(
+	s0name = "0", s0tsw = 1ns, s0rlo = 10.9 s0rhi = 292,
+	s1name = "1", s1tsw = 1.5ns,s1rlo= 40k  s1rhi = 40k,
+	s2name = "X", s2tsw = 1ns, s2rlo = 660  s2rhi = 3420)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74HC family

*   standard drive
*
.model DIN74HC dinput(
+	s0name = "0", s0tsw = 400ns, s0rlo = 30    s0rhi = 10MEG,
+	s1name = "1", s1tsw = 400ns, s1rlo = 10MEG s1rhi = 40,
+	s2name = "X", s2tsw = 200ns, s2rlo = 17.3k s2rhi = 20.0k)
*$
*   buffer drive
*
.model DIN74HCB dinput(
+	s0name = "0", s0tsw = 400ns, s0rlo = 20    s0rhi = 10MEG,
+	s1name = "1", s1tsw = 400ns, s1rlo = 10MEG s1rhi = 26.7,
+	s2name = "X", s2tsw = 200ns, s2rlo = 14.1k s2rhi = 16.3k,
+	s3name = "Z", s3tsw = 400ns, s3rlo = 10MEG s3rhi = 10MEG)
*$
*   open-drain output
*
.model DIN74HCOD dinput(
+	s0name = "0", s0tsw = 400ns, s0rlo = 30    s0rhi = 10MEG,
+	s1name = "1", s1tsw = 400ns, s1rlo = 10MEG s1rhi = 10MEG,
+	s2name = "X", s2tsw = 200ns, s2rlo = 17.3k s2rhi = 10MEG)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 4000 CMOS family (A and B series)

*   standard drive
*
.model DIN4000 dinput(
+	s0name = "0", s0tsw = 400ns, s0rlo = 225   s0rhi = 10MEG,
+	s1name = "1", s1tsw = 400ns, s1rlo = 10MEG s1rhi = 225,
+	s2name = "X", s2tsw = 200ns, s2rlo = 47.4k s2rhi = 47.4k)
*$
*   buffer drive
*
.model DIN4000B dinput(
+	s0name = "0", s0tsw = 400ns, s0rlo = 53.3  s0rhi = 10MEG,
+	s1name = "1", s1tsw = 400ns, s1rlo = 10MEG s1rhi = 53.3,
+	s2name = "X", s2tsw = 200ns, s2rlo = 23.1k s2rhi = 23.1k,
+	s3name = "Z", s3tsw = 400ns, s3rlo = 10MEG s3rhi = 10MEG)
*$
*   open-drain output
*
.model DIN4000OD dinput(
+	s0name = "0", s0tsw = 400ns, s0rlo = 225   s0rhi = 10MEG,
+	s1name = "1", s1tsw = 400ns, s1rlo = 10MEG s1rhi = 10MEG,
+	s2name = "X", s2tsw = 200ns, s2rlo = 47.4k s2rhi = 10MEG)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$

*** digital output devices ****************************************************

* The parameters in this model library were derived from:
*
*   The TTL Data Book, Texas Instruments, 1985
*     vol. 2, pp 1-21 to 1-26 and pp 3-79 to 3-81
*   Supplement to TTL Data Book, Texas Instruments, 1984
*     vol. 3, pp 3-17 to 3-19
*   High-speed CMOS Logic Data Book, Texas Instruments, 1984
*     pp 2-4 to 2-16
*   CMOS Integrated Circuits Databook, RCA Solid State, 1983
*     pp 44-55

* Example use:  O3 bus3 0 DO74
*               X3 bus3 0 VCC DO74LS

* Notes:
* 1) Unlike the other libraries, this one is not ready to use as it is.
*    Each .MODEL statement has 3 parameters missing: the name of the
*    file to read for digital input, the format of that file, and the
*    file's time step.  You must supply these parameters before using
*    these models.  Also, you may need to change the characters used
*    to designate the low, high, and unknown states; these models use
*    "0", "1", and "X".  You can change this if it is not appropriate
*    for your application.  Because you will want to make some or all
*    of these changes, we recommend making a working copy of this file
*    instead of using the original.
* 2) The "O" devices are the input stage of the digital component, but
*    are called "digital output devices" because they provide output
*    from the analog circuitry.  Each TTL logic family has two digital
*    output devices in this library: a simple model and a more elaborate
*    model.  The simple model is a .MODEL statement and translates a
*    voltage into a logic state.  The elaborate model is a .SUBCKT
*    definition and contains the simple model plus components which
*    provide electrical loading.  We recommend using the simple model
*    if you can: it takes up less memory and less computer time.  The
*    CMOS families have only a simple model which includes their
*    capacitive loading.
* 3) If you use the simple model, you must place "O" devices, with the
*    2nd node connected to ground.  If you use the elaborate model, you
*    must place "X" devices.
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74/54 family (standard TTL), elaborate model

*   standard
*
* connections:   gate's input
*                |
.subckt DO74     1
*
O0	1	0	DOTTL
D0	0	1	D74
D1	2	1	D74
R1	2	3	1k
V1	3	0	2v
R2	1	4	100k
V2	4	0	5v
.ends
*$
.model D74 D(is=1e-16 rs=25 cjo=2pf)

*   Schmidt trigger
*
* connections:   gate's input
*                |
.subckt DO74SCH  1
*
O0	1	0	DOTTLSCH
D0	0	1	D74
D1	2	1	D74
R1	2	3	1k
V1	3	0	2v
R2	1	4	100k
V2	4	0	5v
.ends
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74/54LS family, elaborate model

*   standard
*
* connections:   gate's input
*                |
.subckt DO74LS   1
*
O0	1	0	DOTTL
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	1k
V1	3	0	2v
R2	1	4	100k
V2	4	0	5v
.ends
*$
*   Schmidt trigger
*
* connections:     gate's input
*                  |
.subckt DO74LSSCH  1
*
O0	1	0	DOTTLSCH
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	4k
V1	3	0	2v
R2	1	4	200k
V2	4	0	5v
.ends
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74/54S family, elaborate model

*   standard
*
* connections:   gate's input
*                |
.subckt DO74S    1
*
O0	1	0	DOTTL
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	.8k
V1	3	0	2v
R2	1	4	80k
V2	4	0	5v
.ends
*$
*   Schmidt trigger
*
* connections:   gate's input
*                |
.subckt DO74SSCH 1
*
O0	1	0	DOTTLSCH
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	.8k
V1	3	0	2v
R2	1	4	80k
V2	4	0	5v
.ends
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74/54ALS family, elaborate model

*   standard
*
* connections:   gate's input
*                |
.subckt DO74ALS  1
*
O0	1	0	DOTTL
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	16k
V1	3	0	2v
R2	1	4	200k
V2	4	0	5v
.ends
*$
*   Schmidt trigger
*
* connections:     gate's input
*                  |
.subckt DO74ALSSCH 1
*
O0	1	0	DOTTLSCH
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	16k
V1	3	0	2v
R2	1	4	200k
V2	4	0	5v
.ends
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* 74/54AS family, elaborate model

*   standard
*
* connections:   gate's input
*                |
.subckt DO74AS   1
*
O0	1	0	DOTTL
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	16k
V1	3	0	2v
R2	1	4	200k
V2	4	0	5v
.ends
*$
*   Schmidt trigger
*
* connections:   gate's input
*                |
.subckt DO74ASSCH 1
*
O0	1	0	DOTTLSCH
D0	0	1	D74S
D1	2	1	D74S
R1	2	3	16k
V1	3	0	2v
R2	1	4	200k
V2	4	0	5v
.ends
.model D74S D(is=1e-11 rs=25 cjo=2pf)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*$
* Simple models

*   TTL (also includes 54/74 LS, S, ALS, AS, HCT families)
*
.model DOTTL doutput(
+	s0name = "0", s0vlo = -1.5, s0vhi = 0.9,
+	s1name = "1", s1vlo =  1.1, s1vhi = 7.0,
+	s2name = "X", s2vlo =  0.9, s2vhi = 1.1)
*$
*   TTL, schmidt trigger (also includes 54/74 LS, S, ALS, AS, HCT families)
*
.model DOTTLSCH doutput(
+	s0name = "0", s0vlo = -1.5, s0vhi = 1.66,
+	s1name = "1", s1vlo = 0.86, s1vhi = 7.0)
*$
*   74/54HC CMOS (VCC = 5v)
*
.model DOHC doutput(cload = 3pf,
+	s0name = "0", s0vlo = -.5, s0vhi = 2.0,
+	s1name = "1", s1vlo = 2.5, s1vhi = 7.0,
+	s2name = "X", s2vlo = 2.0, s2vhi = 2.5)
*$
*   74/54HC CMOS (VCC = 5v), schmidt trigger
*
.model DOHCSCH doutput(cload = 3pf,
+	s0name = "0", s0vlo = -.5, s0vhi = 2.5,
+	s1name = "1", s1vlo = 2.0, s1vhi = 7.0)
*$
*   4000 CMOS (VCC = 10v)
*
.model DO4000 doutput(cload = 5pf,
+	s0name = "0", s0vlo = -.5, s0vhi = 5.0,
+	s1name = "1", s1vlo = 5.5, s1vhi = 10.5,
+	s2name = "X", s2vlo = 5.0, s2vhi = 5.5)
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* end of library file

